* CA3080 Operational Transconductance Amplifier
* EQUIVALENT SUBSTITUTE FOR CA3080 IS ECG/NTE996 (SAME 8-PIN DIP PINOUT)
*
* SPICE (Simulation Program with Integrated Circuit Emphasis)
* SUBCIRCUIT
*
* Connections:
*			   INVERTING INPUT
*			   | NON-INVERTING INPUT
*			   | | NEGATIVE POWER SUPPLY
*			   | | | I BIAS
*			   | | | | OUTPUT
*			   | | | | | POSITIVE POWER SUPPLY
*			   | | | | | |
.SUBCKT CA3080 2 3 4 5 6 7
Q1 8 2 1 QN_OTA
Q2 8 3 12 QN_OTA
Q3 4 5 8 QN_OTA
Q4 7 9 1 QP_OTA
Q5 10 1 11 QP_OTA
Q6 9 10 11 QP_OTA
Q7 7 14 12 QP_OTA
Q8 13 12 6 QP_OTA
Q9 14 13 6 QP_OTA
Q10 15 11 6 QN_OTA
Q11 4 15 11 QN_OTA
D1 5 4 D_OTA
D2 1 10 D_OTA
D3 7 9 D_OTA
D4 12 13 D_OTA
D5 7 14 D_OTA
D6 15 4 D_OTA
*
.MODEL QN_OTA NPN(IS=21.48F XTI=3 EG=1.11 VAF=80 BF=550 ISE=50F NE=1.5
+ IKF=10M XTB=1.5 BR=.1 ISC=10F NC=2 IKR=3M RC=10 CJC=800F
+ MJC=.3333 VJC=.75 FC=.5 CJE=1.3P MJE=.3333 VJE=.75 TR=30N
+ TF=400P ITF=30M XTF=1 VTF=10 CJS=5.8P MJS=.3333 VJS=.75)
*
.MODEL QP_OTA PNP(IS=50F XTI=3 EG=1.11 VAF=80 BF=100 ISE=130F NE=1.5 IKF=1M
+ XTB=1.5 BR=1 ISC=0 NC=2 IKR=0 RC=0 CJC=4P MJC=.3333
+ VJC=.75 FC=.5 CJE=1.4P MJE=.3333 VJE=.75 TR=500N TF=23N ITF=.1
+ XTF=1 VTF=10 CJS=5.5P MJS=.3333 VJS=.75)
*
.MODEL D_OTA D(IS=2P RS=5 BV=40 CJO=3P TT=6N)
*
.ENDS
